US07547698B2
SYNTHESIS OF [4-(2-ETHYLIMIDAZO[1,2-B]PYRIDAZIN-6-YL)PIPERAZIN-1-YL](2-TRIFLUOROMETHYLPHENYL)METHANONE
A mixture of [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone (0.120 g, 0.342 mmol), 1-bromobutan-2-one (0.077 g, 0.512 mmol) and sodium bicarbonate (0.016 g) in ethanol was refluxed over night. The reaction mixture was concentrated in vacuo, then diluted with 10 mL of water, extracted with ethyl acetate. The organic layer was dried and concentrated. The residue was purified by column chromatography. The title compound was obtained as a white solid in 69% yield (0.095 g). 1H NMR (300 MHz, CDCl3) δ 7.73-7.47 (m, 4H), 7.43 (s, 1H), 7.33 (d, J=7.5 Hz, 1H), 6.71 (d, J=7.5 Hz, 1H), 4.02-3.82 (m, 2H), 3.58-3.5 (m, 2H), 3.4-3.25 (m, 4H), 2.78 (q, 2H), 1.29 (m, J=7.5 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ 167.5, 154.4, 148.1, 135.7, 134.44, 134.41, 132.3, 129.4, 127.2, 126.9, 126.8, 126.7, 125.4, 125.34, 121.8, 113.1, 109.4, 46:6, 46.4, 46.2, 41.2, 22.4, 13.5. MS (ES+)m/z 404 (M+1).

reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone | 0.342 mmol, 0.120 g | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
reactant | 1-bromobutan-2-one | 0.512 mmol, 0.077 g | BrCC(CC)=O | C4H7BrO
reactant | sodium bicarbonate | 0.016 g | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | [4-(2-ETHYLIMIDAZO[1,2-B]PYRIDAZIN-6-YL)PIPERAZIN-1-YL](2-TRIFLUOROMETHYLPHENYL)METHANONE | 69% yield | C(C)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(=O)C2=C(C=CC=C2)C(F)(F)F)C1 | C20H20F3N5O
